US08405069B2
o. Diethyl 3-(3,6-di-tert-butyl-9H-carbazol-9-yl)propylphosphonate
Diethyl 3-(9H-carbazol-9-yl)propylphosphonate (1.00 g, 2.89 mmol) was dissolved in 2-chloro-2-methylpropane (5.0 mL) and flushed with N2 for 5 minutes. To this stirred solution was added aluminum chloride (1.16 g, 8.67 mmol) slowly. The solution turned chunky and black with gas bubbles appearing. The reaction was allowed to stir for 25 minutes after adding all the aluminum chloride. It was then quenched with 25 mL water and an extraction performed with water washings followed by 2×20 mL 1 M NaOH washings, then another water washing. The yellow organic layer was kept and dried and the solvent removed under vacuum. A tlc in ethyl acetate showed 4 spots with the brightest (and desired product) being the third spot from the top. A long column was run and the desired product was obtained as a thick yellow oil (447 mg, 34% yield). 1H NMR (400.14 MHz, CD2Cl2) δ 8.10 (d, J=1.6 Hz, 2H), 7.52 (dd, J=8.80, 2.00 Hz, 2H), 7.35 (d, 8.40 Hz, 2H), 4.36 (t, J=7.00 Hz, 2H), 4.08-3.93 (m, 4H), 2.21-2.07 (m, 2H), 1.71 (dt, J=18.14 Hz, 6.00 Hz, 2H), 1.45 (18H), 1.25 (t, J=7.00 Hz, 6H). 13C{1H} NMR (100.61 MHz, CD2Cl2) δ 142.14 (2C), 139.26 (2C), 123.80 (2C), 123.06 (2C), 116.68 (2C), 108.50 (2C), 61.89 (d, J=6.4 Hz, 2C), 43.36 (d, J=15.8 Hz), 34.92 (2C), 32.19 (6C), 23.35 (d, 142.2 Hz), 22.59 (d, J=4.9 Hz), 16.64 (d, J=5.8 Hz, 2C). 31P{1H} NMR (161.97 MHz, CD2Cl2): δ 31.34.

reactant | Diethyl 3-(9H-carbazol-9-yl)propylphosphonate | 2.89 mmol, 1.00 g | C1=CC=CC=2C3=CC=CC=C3N(C12)CCCP(OCC)(OCC)=O | C19H24NO3P
reactant | aluminum chloride | 8.67 mmol, 1.16 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chloro-2-methylpropane | 5.0 mL | ClC(C)(C)C | C4H9Cl
product | Diethyl 3-(3,6-di-tert-butyl-9H-carbazol-9-yl)propylphosphonate | C(C)(C)(C)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C)(C)C)CCCP(OCC)(OCC)=O | C27H40NO3P
